US05091384
Preparation of 1-cyclopropyl-7-[3,7-diazabicyclo[3.3.0]oct-1(5)-en-3-yl]-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (KR-10679)
0.4 g of 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, 0.8 g of 3,7-diazabicyclo[3.3.0]oct-1(5)-ene dihydrobromide and 0.8 ml of 1,8-diazabicyclo[5.4.0] undec-7-ene (DBU) were suspended in 30 ml of acetonitrile and the suspension was refluxed in 100° C. oil bath for 8 hours. The reaction mixture was kept overnight at room temperature. The produced precipitate was filtered and washed with methanol. 0.35 g of the title compound was obtained (yield 67%)

reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.4 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | 3,7-diazabicyclo[3.3.0]oct-1(5)-ene dihydrobromide | 0.8 g | Br.Br.C1=2CNCC2CNC1
reactant | 1,8-diazabicyclo[5.4.0] undec-7-ene | 0.8 ml | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 1-cyclopropyl-7-[3,7-diazabicyclo[3.3.0]oct-1(5)-en-3-yl]-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.35 g, yield 67% | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC=2CNCC2C1)F)=O)C(=O)O | C19H17F2N3O3
